US05459142
To a dioxane solution (200 ml) containing 18.71 of N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine and 6.04 g of N-hydroxysuccinimide, was added 18.83 g of N,N'-dicyclohexylcarbodiimide, and the mixture was stirred at room temperature for 12 hours. After the reaction mixture was filtered, to the filtrate thus obtained was added 4.31 g of sodium acetate, then this mixture was stirred at room temperature for 5 hours. Then the reaction mixture was transferred to 600 ml of ice-water containing 5 ml of acetic acid, the precipitated semi-solid was collected and was dissolved in dichloromethane, the insoluble matters were removed by filtration, the organic layer was washed with in aqueous solution saturated with sodium chloride, then dried with magnesium sulfate. The solvent was removed by distillation to obtain yellow semi-solid, then 30 ml of diethyl ether was added and the mixture was allowed to stand for 2 days in a refrigerator to crystallize. The solid matter was collected by filtration and washed with diethyl ether to obtain 6.11 g of 5-hydroxy-3-isobutyl- 6-(3,4,5-trimethoxybenzyl)-1,2-dihydropyrazin-2-one 4-oxide as yellow powder.

reactant | N-(2-hydroxyimino-4-methylpentanoyl)-(3,4,5-trimethoxy)phenylalanine | ON=C(C(=O)N[C@@H](CC1=CC(=C(C(=C1)OC)OC)OC)C(=O)O)CC(C)C | C18H26N2O7
reactant | N-hydroxysuccinimide | 6.04 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 18.83 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium acetate | 4.31 g | C(C)(=O)[O-].[Na+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5-hydroxy-3-isobutyl- 6-(3,4,5-trimethoxybenzyl)-1,2-dihydropyrazin-2-one 4-oxide | 6.11 g | OC=1[N+](=C(C(NC1CC1=CC(=C(C(=C1)OC)OC)OC)=O)CC(C)C)[O-] | C18H24N2O6
